US07459448B2
4-(9-Chloro-7-methyl-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-benzoic acid (I-7)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-1-methyl-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-m) and 4-guanidinobenzoic acid were converted to I-7 (30%): HRMS Calcd. for C20H15ClN4O3: 395.0910, Found 395.0923.

reactant | 8-chloro-4-dimethylaminomethylene-1-methyl-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(N(C(CC(C2=O)=CN(C)C)=O)C)C1 | C14H15ClN2O2
reactant | 4-guanidinobenzoic acid | N(C(=N)N)C1=CC=C(C(=O)O)C=C1 | C8H9N3O2
product | 4-(9-Chloro-7-methyl-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-benzoic acid | ClC=1C=CC2=C(N(C(CC3=C2N=C(N=C3)NC3=CC=C(C(=O)O)C=C3)=O)C)C1 | C20H15ClN4O3
